US08754073B2
67.1 tert-butyl 4-(4-chlorophenyl)-4-hydroxymethylpiperidine-1-carboxylate
300 mg [4-(4-chlorophenyl)-piperidin-4-yl]-methanol (see J. Med. Chem. 2004, 497) are placed in 3 ml dioxane, then 0.5 ml of water and 0.224 g sodium carbonate are added. After 5 min 300 mg di-tert-butyl-dicarbonate are added. The reaction mixture is stirred for 3 h at ambient temperature, then mixed with water and the product is extracted with dichloromethane. 440 mg product are obtained as an oil.

reactant | [4-(4-chlorophenyl)-piperidin-4-yl]-methanol | 300 mg | ClC1=CC=C(C=C1)C1(CCNCC1)CO | C12H16ClNO
reactant | water | 0.5 ml | O | H2O
reactant | sodium carbonate | 0.224 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl-dicarbonate | 300 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 4-(4-chlorophenyl)-4-hydroxymethylpiperidine-1-carboxylate | 440 mg | ClC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24ClNO3
